US06822069B2
(2) Synthesis of 2,3-di(4-bromophenyl)-5-aminoquinoxaline
1.01 g (0.0021 mol) of 2,3-di(4-bromophenyl)-5-nitroquinoxaline was dissolved in 30 g of dioxane, and the reaction system was flushed sufficiently with argon. Thereafter, 0.3 g of PdC was added to the reaction mixture, the reaction system was again flushed sufficiently with argon, the system was then flushed with hydrogen gas, and reaction was allowed at room temperature for 24 hr. After the reaction was over, the reaction mixture was filtered, the filter cake was further washed with acetone and dioxane, and filtration was again conducted. The solvent was removed from the filtrate obtained, and the reaction product was extracted on a silica gel column.

reactant | 2,3-di(4-bromophenyl)-5-nitroquinoxaline | 0.0021 mol, 1.01 g | BrC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)Br)[N+](=O)[O-] | C20H11Br2N3O2
solvent | dioxane | 30 g | O1CCOCC1 | C4H8O2
product | 2,3-di(4-bromophenyl)-5-aminoquinoxaline | BrC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)Br)N | C20H13Br2N3
